US09376396B2
10.1 2-tert-Butyl-4-(2-hydroxy-ethyl)-6-piperazin-1-yl-pyrimidine
To the solution of 2-tert-Butyl-4-(2-methoxy-ethyl)-6-piperazin-1-yl-pyrimidine (2.78 g, 9.99 mmol) in DCM (150 mL) was added BBr3 (3.75 g, 14.98 mmol) at 0° C. Then the mixture was stirred overnight at room temperature. The mixture was quenched with saturated aqueous NaHCO3 solution. The organic phase was separated out and dried over Na2SO4, filtered and concentrated. The crude title compound was used in the next step without any further purification.

reactant | 2-tert-Butyl-4-(2-methoxy-ethyl)-6-piperazin-1-yl-pyrimidine | 9.99 mmol, 2.78 g | C(C)(C)(C)C1=NC(=CC(=N1)CCOC)N1CCNCC1 | C15H26N4O
reactant | BBr3 | 14.98 mmol, 3.75 g | B(Br)(Br)Br | BBr3
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | 2-tert-Butyl-4-(2-hydroxy-ethyl)-6-piperazin-1-yl-pyrimidine | C(C)(C)(C)C1=NC(=CC(=N1)CCO)N1CCNCC1 | C14H24N4O
